US09061013B2
3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid cyclopropylamide
To a stirred solution of 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 4, 0.1 g, 0.196 mmol) in DMF (3 mL) was added DIPEA (0.051 g, 0.393 mmol), HOBt (0.027 g, 0.196 mmol), EDCl.HCl (0.057 g, 0.294 mmol) and cyclopropyl amine (0.011 g, 0.196 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 16 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (50 mL) and extracted with EtOAc (5×20 mL). Combined organic layer was washed with saturated NaHCO3 (2×50 mL), dried over sodium sulphate and evaporated in vacuo to get 0.2 g (crude). Crude was purified by column chromatography on silica gel (100-200 mesh). Compound was eluted using 0.7% methanol in DCM to afford off white solid (0.055 g, 51%. 1H-NMR (400 MHz, CDCl3) δ: 0.54-0.59 (m, 2H), 0.81-0.86 (m, 2H), 2.48-2.51 (m, 2H), 2.75-2.86 (m, 4H), 3.67 (d, 1H, J=17.16 Hz), 4.07 (d, 1H, J=17.16 Hz), 5.73 (s, 1H), 5.79 (bs, 1H), 7.54 (d, 2H, J=8.2 Hz), 7.62-7.63 (m, 4H); LC-MS (m/z): [M−H] 544.70,

reactant | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.196 mmol, 0.1 g | OC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H15Cl3F3NO4
reactant | DIPEA | 0.393 mmol, 0.051 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.196 mmol, 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.294 mmol, 0.057 g | Cl | ClH
reactant | cyclopropyl amine | 0.196 mmol, 0.011 g | C1(CC1)N | C3H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O | C24H20Cl3F3N2O3
